US06194406B1
Combine methyl 2-hydroxy-5-(t-butyldimethylsilyloxy)benzoate (14.2 g, 50.2 mmol), potassium carbonate (13.88 g, 100.4 mmol), and methyl iodide (20 mL, 321 mmol) in acetone (125 mL). Heat to reflux. After 17 hours, add methyl iodide (10 mL). After 23 hours, cool the reaction mixture to ambient temperature and add diethyl ether (600 mL), filter, and evaporate the filtrate in vacuo to give a residue. Chromatograph the residue on silica gel eluting with 10% ethyl acetate/hexane to give methyl 2-methoxy-5-(t-butyldimethylsilyloxy)benzoate. Rf=0.39 (silica gel, 5% ethyl acetate/hexane).

reactant | methyl 2-hydroxy-5-(t-butyldimethylsilyloxy)benzoate | 50.2 mmol, 14.2 g | OC1=C(C(=O)OC)C=C(C=C1)O[Si](C)(C)C(C)(C)C | C14H22O4Si
reactant | potassium carbonate | 100.4 mmol, 13.88 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 321 mmol, 20 mL | CI | CH3I
reactant | methyl iodide | 10 mL | CI | CH3I
reactant | diethyl ether | 600 mL | C(C)OCC | C4H10O
solvent | acetone | 125 mL | CC(=O)C | C3H6O
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | methyl 2-methoxy-5-(t-butyldimethylsilyloxy)benzoate | COC1=C(C(=O)OC)C=C(C=C1)O[Si](C)(C)C(C)(C)C | C15H24O4Si
